US05972975
A solution prepared by the addition of 1.58 mL (2.85 mmol) of 1.8 M phenyllithium in 70:30 cyclohexane/diethyl ether to 4.0 mL of diethyl ether was stirred at -10° C. 4,6-Dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine (500 mg, 2.5 mmol) was added as a solution in 1.7 mL of diethyl ether and the mixture was stirred 1h at -5 to -10° C. The red solution was then cooled to -45° C. and 0.354 mL (566 mg, 3.08 mmol) of 1-iodo-2-methylpropane was added in one portion. The reaction was warmed slowly to 10° C., stirring a total 2 h after addition of the iodide. The reaction was then quenched with 10 mL of saturated aqueous ammonium chloride and extracted with 30 mL of ethyl acetate. The organic phase was washed with 10 mL of saturated aqueous sodium chloride, dried over sodium sulfate and concentrated to give a yellow oil. Purification by flash column chromatography on silica gel, eluting with dichloromethane/hexane yielded 330 mg (52% yield) of 4-methyl-6-(3-methylbutyl)-2-(2,5-dimethylpyrrol-1-yl)pyridine as a yellow oil.

reactant | phenyllithium | 2.85 mmol, 1.8 M, 1.58 mL | C1(=CC=CC=C1)[Li]
reactant | 4,6-Dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | 2.5 mmol, 500 mg | CC1=CC(=NC(=C1)C)N1C(=CC=C1C)C | C13H16N2
reactant | 1-iodo-2-methylpropane | 3.08 mmol, 0.354 mL, 566 mg | ICC(C)C | C4H9I
reactant | iodide | [I-]
solvent | diethyl ether | 1.7 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 4.0 mL | C(C)OCC | C4H10O
solvent | cyclohexane diethyl ether | C1CCCCC1.C(C)OCC
product | 4-methyl-6-(3-methylbutyl)-2-(2,5-dimethylpyrrol-1-yl)pyridine | 330 mg, 52% yield | CC1=CC(=NC(=C1)CCC(C)C)N1C(=CC=C1C)C | C17H24N2
